US04515968
PREPARATION OF 2-(2-FURYL)-4,5-DIMETHYL-1,3-DITHIOLANE
Into a 100 ml reaction flask equipped with magnetic stirring bar, thermometer and reflux condenser and hot plate with magnetic stirring apparatus is placed 0.5 grams para-toluenesulfonic acid, 5 ml cyclohexane and 6.1 grams (0.05 moles) of 2,3-butanedithiol. Over a period of 35 minutes, 4.8 grams (0.05 moles) of 2-furaldehyde is added to the reaction mass with stirring. The reaction mass is then heated to reflux and refluxed for a period of 7.5 hours with stirring while removing water of reaction. After the refluxing period, the reaction mass is cooled to room temperature and transferred to a separatory funnel. The reaction mass is then washed with one 50 ml portion of saturated sodium chloride solution and dried over anhydrous sodium sulfate and filtered. The resulting filtrate is distilled using a Microvigreux column yielding the following fractions:

reactant | para-toluenesulfonic acid | 0.5 grams | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 2,3-butanedithiol | 0.05 moles, 6.1 grams | CC(C(C)S)S | C4H10S2
reactant | 2-furaldehyde | 0.05 moles, 4.8 grams | O1C(=CC=C1)C=O | C5H4O2
solvent | cyclohexane | 5 ml | C1CCCCC1 | C6H12
product | 2-(2-FURYL)-4,5-DIMETHYL-1,3-DITHIOLANE | O1C(=CC=C1)C1SC(C(S1)C)C | C9H12OS2
